US07585885B2
(S)-2-sec-Butylamino-6-propanesulfonyl-isonicotinic acid
Add 2 N NaOH (6.0 mL, 12.0 mmol) to a solution of (S)-2-sec-butylamino-6-propanesulfonyl-isonicotinic acid methyl ester (2.47 g, 7.87 mmol) in methanol (10 mL) at 0° C. Stir the mixture at room temperature for 3 h, acidify the solution to about pH=2 and concentrate to one half of the solvent. Partition the residue between ethyl acetate and water. Extract the aqueous layer with ethyl acetate (2×50 mL). Wash the combined extracts with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (90%).

reactant | NaOH | 12.0 mmol, 2 N, 6.0 mL | [OH-].[Na+]
reactant | (S)-2-sec-butylamino-6-propanesulfonyl-isonicotinic acid methyl ester | 7.87 mmol, 2.47 g | COC(C1=CC(=NC(=C1)S(=O)(=O)CCC)N[C@@H](C)CC)=O | C14H22N2O4S
solvent | methanol | 10 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-propanesulfonyl-isonicotinic acid | 90% | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)S(=O)(=O)CCC | C13H20N2O4S
